* Transistors
MP1 2 7 2 2 PMOS
MP2 2 8 2 2 PMOS
MB11 2 5 2 2 PMOS
MB12 6 5 2 2 PMOS
M1 5 3 3 3 NMOS
? Missing component
M3 3 3 3 3 NMOS
M4 3 3 3 3 NMOS
M5 4 3 3 3 NMOS
* Current Sources
I1 2 5 DC 0
I2 2 6 DC 0
* Voltage Source
V_BIAS 2 7 DC 0
* Capacitors
C_C 4 5 <value>
C_L 3 3 <value>
* Resistor
R_BIAS 7 2 <value>
* Voltage Supply
VDD 2 0 DC <value>
VSS 3 0 DC 0
